US09388189B2
a) 4,6-Dichloro-N-(4-(N-methylsulfamoyl)phenyl)pyrimidine-5-carboxamide
4-Amino-N-methylbenzenesulfonamide (244 mg, 1.31 mmol) was dissolved in tetrahydrofuran (12 ml) and triethylamine (402 μl, 2.88 mmol) was added. Then a solution of 4,6-dichloropyrimidine-5-carbonyl chloride (300 mg, 1.42 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dropwise added. After 2 h more triethylamine (202 μl, 1.44 mmol) and 4,6-dichloropyrimidine-5-carbonyl chloride (150 mg, 0.71 mmol) were added. The reaction mixture was stirred at room temperature overnight. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The crude was purified by flash chromatography (0% to 60%, hexane-ethyl acetate) using a SP1® Purification System to give 238 mg (50% yield) of the title compound. Purity 100%.

reactant | 4-Amino-N-methylbenzenesulfonamide | 1.31 mmol, 244 mg | NC1=CC=C(C=C1)S(=O)(=O)NC | C7H10N2O2S
reactant | triethylamine | 2.88 mmol, 402 μl | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloropyrimidine-5-carbonyl chloride | 1.42 mmol, 300 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | triethylamine | 1.44 mmol, 202 μl | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloropyrimidine-5-carbonyl chloride | 0.71 mmol, 150 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,6-Dichloro-N-(4-(N-methylsulfamoyl)phenyl)pyrimidine-5-carboxamide | 238 mg, 50% yield | ClC1=NC=NC(=C1C(=O)NC1=CC=C(C=C1)S(NC)(=O)=O)Cl | C12H10Cl2N4O3S
